US07094938B1
Synthesis of 2-methyl-3,6-di-tert-butyl-fluorene
To a solution of 2-chloromethyl-3,6-di-t-butylfluorene (0.74 g, 2.26 mmol) in THF (15 ml) was added a small portion of LiAlH4 (129 mg, 3.39 mmol) under stirring and the mixture was refluxed for 5 hours. The reaction was quenched with water and NaOH and extracted with ether. The ether solution was evaporated under vacuum to give a white solid yield of 0.68 g. 1H NMR (CDCl3): δ 7.80 and 7.66 (each d, 1H, 4,5-H), 7.45 (d, 1H, J=8.1 Hz, H8), 7.31 (dd, 1H, J=8.1 Hz, J=1.5 Hz, H7), 7.14 (br s, 1H, 1H, H1), 3.69 (s, 2H, H9), 2.40 (s, 3H, Me), 1.41 (s, 18H, t-Bu).

reactant | 2-chloromethyl-3,6-di-t-butylfluorene | 2.26 mmol, 0.74 g | ClCC1=CC=2CC3=CC=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C | C22H27Cl
reactant | LiAlH4 | 3.39 mmol, 129 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-methyl-3,6-di-tert-butyl-fluorene | yield of 0.68 g | CC1=CC=2CC3=CC=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C | C22H28
